US04039543
9.7 G. of methyl 4-(N-methylacetamido)-3,5-dinitrobenzoate in 100 ml. of methanol were hydrogenated under normal pressure and at room temperature in the presence of 1 g. of palladium/carbon. After uptake of the theoretical amount of hydrogen, the solution was filtered off from the catalyst and evaporated. The residue was recrystallized from methanol, there being obtained methyl 3,5-diamino-4-(N-methylacetamido)-benzoate having a melting point of 221°-222° C.

reactant | methyl 4-(N-methylacetamido)-3,5-dinitrobenzoate | CN(C(C)=O)C1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])[N+](=O)[O-] | C11H11N3O7
catalyst | palladium/carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl 3,5-diamino-4-(N-methylacetamido)-benzoate | NC=1C=C(C(=O)OC)C=C(C1N(C(C)=O)C)N | C11H15N3O3
